### PR TITLE
[Merged by Bors] - feat(Mathlib/Algebra/Azumaya/Basic): More on azumaya

### PR DESCRIPTION
**Pull request by Whysoserioushah**
I prove that tensor product of Azumaya algebra is still Azumaya, this PR is a prerequisite.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+
+open MulOpposite
+
+namespace IsAzumaya
+
+variable (R A B : Type*) [CommRing R] [Ring A] [Ring B] [Algebra R A] [Algebra R B]
+
+/-- The "canonical" isomorphism between `R ⊗ Rᵒᵖ` and `End R R` which is equal
+  to `AlgHom.mulLeftRight R R`. -/
+noncomputable abbrev tensorEquivEnd: R ⊗[R] Rᵐᵒᵖ ≃ₐ[R] Module.End R R :=
```
Comment (erdOne) [inline Mathlib/Algebra/Azumaya/Basic.lean:38]:
```suggestion
noncomputable abbrev tensorEquivEnd : R ⊗[R] Rᵐᵒᵖ ≃ₐ[R] Module.End R R :=
```
Similar below.

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+  Algebra.TensorProduct.lid R Rᵐᵒᵖ|>.trans <|
+  AlgEquiv.ofRingEquiv (f := Module.moduleEndSelf R) fun r ↦ by ext; simp
+
+lemma tensorEquivEnd_eq_mulLeftRight: tensorEquivEnd R = AlgHom.mulLeftRight R R := by
+  ext; simp
+
+theorem Self: IsAzumaya R R where
```
Comment (erdOne) [inline Mathlib/Algebra/Azumaya/Basic.lean:45]:
```suggestion
instance self : IsAzumaya R R where
```

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+  bij := by rw [← tensorEquivEnd_eq_mulLeftRight]; exact tensorEquivEnd R|>.bijective
```
Comment (erdOne) [inline Mathlib/Algebra/Azumaya/Basic.lean:46]:
```suggestion
  bij := by rw [← tensorEquivEnd_eq_mulLeftRight]; exact tensorEquivEnd R |>.bijective
```

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+  |                        |
+  |                        |
+  | mulLeftRight R A       | mulLeftRight R B
+  |                        |
+  V                        V
+End R A   ------------> End R B
+          e.conj
+```
+-/
+lemma small_comm_square (e : A ≃ₐ[R] B):
```
Comment (erdOne) [inline Mathlib/Algebra/Azumaya/Basic.lean:62]: Probably should be called `mulLeftRight_comp_congr` or something similar.

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,92 @@
...
+
+variable {R A B} in
+lemma _root_.FaithfulSMul.ofAlgEquiv [FaithfulSMul R A] (e : A ≃ₐ[R] B) :
+    FaithfulSMul R B where
+  eq_of_smul_eq_smul {r1 r2} h12 := by
+    specialize h12 1
+    rw [← e.apply_symm_apply 1, ← map_smul, map_one e.symm, ← map_smul] at h12
+    have : ∀ (a : A), r1 • a = r2 • a := fun a ↦ by
+      rw [← one_mul a, ← smul_mul_assoc, e.injective h12, smul_mul_assoc]
+    exact eq_of_smul_eq_smul this
```
Comment (erdOne) [inline Mathlib/Algebra/Azumaya/Basic.lean:81]: This should be moved elsewhere, and I think `LinearEquiv` is enough?

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,92 @@
...
+
+theorem ofAlgEquiv (e : A ≃ₐ[R] B) (hA : IsAzumaya R A) : IsAzumaya R B :=
```
Comment (erdOne) [inline Mathlib/Algebra/Azumaya/Basic.lean:83]:
```suggestion
theorem of_AlgEquiv (e : A ≃ₐ[R] B) [IsAzumaya R A] : IsAzumaya R B :=
```
And you probably shouldn't mention `hA` in the proof.
You should add a lemma `AlgHom.mulLeftRight_bijective` that has `[IsAzumaya R A]` as an assumption.

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Azumaya/Basic.lean:45]:
```suggestion
theorem of_commRing : IsAzumaya R R where
```
or perhaps
```suggestion
theorem _root_.CommRing.toIsAzumaya : IsAzumaya R R where
```

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,92 @@
...
+
+variable (R A B : Type*) [CommRing R] [Ring A] [Ring B] [Algebra R A] [Algebra R B]
+
+/-- The "canonical" isomorphism between `R ⊗ Rᵒᵖ` and `End R R` which is equal
+  to `AlgHom.mulLeftRight R R`. -/
+noncomputable abbrev tensorEquivEnd: R ⊗[R] Rᵐᵒᵖ ≃ₐ[R] Module.End R R :=
+  Algebra.TensorProduct.lid R Rᵐᵒᵖ|>.trans <|
+  AlgEquiv.ofRingEquiv (f := Module.moduleEndSelf R) fun r ↦ by ext; simp
+
+lemma tensorEquivEnd_eq_mulLeftRight: tensorEquivEnd R = AlgHom.mulLeftRight R R := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Basic.lean:42]:
```suggestion
lemma coe_tensorEquivEnd : tensorEquivEnd R = AlgHom.mulLeftRight R R := by
```
since there is a coercion on (at least) the LHS.

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/Algebra/Azumaya/Basic.lean:45]: This name seems to suggest that either any commutative algebra is Azumaya, or that `R` is an Azumaya over `R` only when `R` is commutative. The former is false, and the latter seems off because I don't think there is a good notion of Azumaya algebra over a non-commutative base.

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean:81]: where do you think I shold move it to?

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean:81]: Also it seems AlgEquiv is necessary I need both map_smul and map_one

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: I'll just leave it for now

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/Algebra/Azumaya/Basic.lean:85]: The result is true for linear equivs. An injection might even be enough. You need a different proof though. 
Where does `#min_imports` suggest you put it?

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 8]
```diff
@@ -0,0 +1,77 @@
...
+
+noncomputable section
+
+open Matrix MulOpposite
+
+/-- `AlgHom.mulLeftRight` for matrix algebra sends basis Eᵢⱼ⊗Eₖₗ to
+  the map `f : Eₛₜ ↦ Eᵢⱼ * Eₛₜ * Eₖₗ = δⱼₛδₜₖEᵢₗ`, therefore we construct the inverse
+  by sending `f` to `f(Eⱼₖ)ᵢₗ • Eᵢⱼ⊗Eₖₗ`. -/
+abbrev AlgHom.mulLeftRightMatrix_inv: Module.End R (Matrix n n R) →ₗ[R]
+    Matrix n n R ⊗[R] (Matrix n n R)ᵐᵒᵖ where
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean]: done!

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: done!

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 6 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: added

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: changed!

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 2 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Azumaya/Basic.lean]: > I'll just leave it for now

What does this mean?

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: I mean I'll hold off the change till we finish the discussion on the name :-(

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: > > I'll just leave it for now
> 
> What does this mean?

I mean I'll hold off the change till we finish the discussion on the name :-(

Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Basic.lean]: Maybe `IsAzumaya.id` in analogy to [Algebra.id](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Defs.html#Algebra.id).

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,96 @@
...
+
+-/
+
+open scoped TensorProduct
+
+open MulOpposite
+
+namespace IsAzumaya
+
+variable (R A B : Type*) [CommRing R] [Ring A] [Ring B] [Algebra R A] [Algebra R B]
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Basic.lean:34]:
```suggestion
variable (R A B : Type*) [CommSemiring R] [Ring A] [Ring B] [Algebra R A] [Algebra R B]
```

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 10]
```diff
@@ -0,0 +1,77 @@
...
+is an Azumaya algebra where `R` is a commutative ring.
+
+## Main Results
+
+- `IsAzumaya.Matrix`: Finite dimensional matrix algebra over `R` is Azumaya.
+
+-/
+open scoped TensorProduct
+
+variable (R n : Type*) [CommRing R] [Fintype n] [DecidableEq n]
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Matrix.lean:22]:
```suggestion
variable (R n : Type*) [CommSemiring R] [Fintype n] [DecidableEq n]
```

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 11]
```diff
@@ -0,0 +1,77 @@
...
+    specialize h 1
+    rw [← Matrix.ext_iff] at h
+    specialize h default default
+    simp only [Matrix.smul_apply, Matrix.one_apply_eq, smul_eq_mul, mul_one] at h
+    exact h
+
+namespace IsAzumaya
+
+/-- Matrix ring over `R` is an azumaya algebra over `R`. -/
+theorem Matrix [Inhabited n]: IsAzumaya R (Matrix n n R) where
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Matrix.lean:69]:
```suggestion
theorem Matrix [Nonempty n]: IsAzumaya R (Matrix n n R) where
```

**Review by alreadydone — COMMENTED** [review]
untested but I think should work:

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: Sounds good I'll change

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: Sounds good I'll change

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean:85]: `#min_imports` says `Mathlib.GroupTheory.GroupAction.Hom`?

Comment (erdOne) [reply Mathlib/Algebra/Azumaya/Basic.lean:85]: Yeah seems to make sense.

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 12]
```diff
@@ -0,0 +1,77 @@
...
+  simp [sum_apply, Matrix.mul_apply, Finset.sum_mul, Finset.mul_sum, stdBasisMatrix,
+    Fintype.sum_prod_type, ite_and]
+
+instance [Inhabited n]: FaithfulSMul R (Matrix n n R) where
+  eq_of_smul_eq_smul {r1 r2} h := by
+    specialize h 1
+    rw [← Matrix.ext_iff] at h
+    specialize h default default
+    simp only [Matrix.smul_apply, Matrix.one_apply_eq, smul_eq_mul, mul_one] at h
+    exact h
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean]: generalised!

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 11 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean]: changed, turns out I need `[Nonempty n]` and `[Nontrivial R]`

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 10 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean:22]: changed!

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: changed!

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 9 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: changed!

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 13]
```diff
@@ -0,0 +1,85 @@
...
+
+noncomputable section
+
+open Matrix MulOpposite
+
+/-- `AlgHom.mulLeftRight` for matrix algebra sends basis Eᵢⱼ⊗Eₖₗ to
+  the map `f : Eₛₜ ↦ Eᵢⱼ * Eₛₜ * Eₖₗ = δⱼₛδₜₖEᵢₗ`, therefore we construct the inverse
+  by sending `f` to `f(Eⱼₖ)ᵢₗ • Eᵢⱼ⊗Eₖₗ`. -/
+abbrev AlgHom.mulLeftRightMatrix_inv :
+    Module.End R (Matrix n n R) →ₗ[R] Matrix n n R ⊗[R] (Matrix n n R)ᵐᵒᵖ where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Matrix.lean:32]: Does this generalize to 
```suggestion
abbrev AlgHom.mulLeftRightInv (b : Basis n R A) :
    Module.End R A →ₗ[R] A ⊗[R] Aᵐᵒᵖ where
```

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 14]
```diff
@@ -0,0 +1,85 @@
...
+  apply Basis.ext (Matrix.stdBasis _ _ _)
+  intro ⟨i, j⟩
+  simp [AlgHom.mulLeftRight_apply, stdBasis_eq_stdBasisMatrix]
+  ext k l
+  simp [sum_apply, Matrix.mul_apply, Finset.sum_mul, Finset.mul_sum, stdBasisMatrix,
+    Fintype.sum_prod_type, ite_and]
+
+instance (ι : Type*) [Nonempty ι] [DecidableEq ι] [Nontrivial R]: FaithfulSMul R (ι →₀ R) where
+  eq_of_smul_eq_smul {r1 r2} h := by
+    simp_rw [Finsupp.ext_iff, Finsupp.smul_apply] at h
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Matrix.lean:60]: This belongs in another file. Does it generalize to broader classes of `Module`?

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 15]
```diff
@@ -0,0 +1,85 @@
...
+    have := h ⟨{Classical.ofNonempty}, (Function.update (0 : ι → R) Classical.ofNonempty 1),
+      fun i ↦ ⟨fun hi ↦ by simp only [Finset.mem_singleton] at hi; subst hi; simp [one_ne_zero],
+      fun h ↦ by simp only [Finset.mem_singleton]; simp only [Function.update, eq_rec_constant,
+        Pi.zero_apply, dite_eq_ite, ne_eq, ite_eq_right_iff, one_ne_zero, imp_false,
+        Decidable.not_not] at h; exact h⟩⟩
+      Classical.ofNonempty
+    simp only [Finsupp.coe_mk, Function.update_self, smul_eq_mul, mul_one] at this
+    exact this
+
+instance (M : Type*) [AddCommMonoid M] [Module R M] [Module.Free R M] [Nontrivial M]:
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Matrix.lean:70]:
```suggestion
instance (M : Type*) [AddCommMonoid M] [Module R M] [Module.Free R M] [Nontrivial M] :
```

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 14 above)
Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Matrix.lean:60]: Here [DecidableEq ι] and [Nontrivial R] should definitely be removed. When [Subsingleton R] is assumed you don't even need to assume [Nonempty ι]. You can make a version assuming `Basis ι R M` too. Another direction of generalization is to assume [FaithfulSMul R M] and conclude `FaithfulSMul R (ι →₀ M)`.
As for "classes of `Module`" I don't think there's much beyond nontrivial free modules. For example, the action of `R × S` on the projective `R × S`-module `R × 0` is not faithful if S is nontrivial.

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Matrix.lean:32]: It's not true that every finite-dimensional nontrivial algebra over a field is Azumaya (equivalently, central simple) ...

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,95 @@
...
+
+/-!
+# Basic properties of Azumaya algebras
+
+In this file we prove basic facts about Azumaya algebras such as `R` is an Azumaya algebra
+over itself where `R` is a commutative ring.
+
+## Main Results
+
+- `IsAzumaya.Self`: `R` is an Azumaya algebra over itself.
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Basic.lean:18]:
```suggestion
- `IsAzumaya.id`: `R` is an Azumaya algebra over itself.
```

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,95 @@
...
+
+open MulOpposite
+
+namespace IsAzumaya
+
+variable (R A B : Type*) [CommSemiring R] [Ring A] [Ring B] [Algebra R A] [Algebra R B]
+
+
+lemma AlgHom.mulLeftRight_bij (h : IsAzumaya R A) :
+    Function.Bijective (AlgHom.mulLeftRight R A) := h.bij
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Basic.lean:38]: Why not
```suggestion

lemma AlgHom.mulLeftRight_bij [h : IsAzumaya R A] :
    Function.Bijective (AlgHom.mulLeftRight R A) := h.bij
```
?

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,95 @@
...
+  intro a
+  induction a using TensorProduct.induction_on with
+  | zero => simp
+  | tmul a a' =>
+    ext; simp [AlgHom.mulLeftRight_apply, LinearEquiv.algConj, LinearEquiv.conj]
+  | add _ _ _ _ => simp_all [map_add]
+
+lemma _root_.FaithfulSMul.ofInjective {R M N : Type*} [SMul R M] [SMul R N]
+    [Nonempty M] [FaithfulSMul R M] (f : @MulActionHom R R _root_.id M _ N _)
+    (hf : Function.Injective f):
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Basic.lean:79]:
```suggestion
    (hf : Function.Injective f) :
```

File: Mathlib/Algebra/Azumaya/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,95 @@
...
+  apply AlgHom.ext
+  intro a
+  induction a using TensorProduct.induction_on with
+  | zero => simp
+  | tmul a a' =>
+    ext; simp [AlgHom.mulLeftRight_apply, LinearEquiv.algConj, LinearEquiv.conj]
+  | add _ _ _ _ => simp_all [map_add]
+
+lemma _root_.FaithfulSMul.ofInjective {R M N : Type*} [SMul R M] [SMul R N]
+    [Nonempty M] [FaithfulSMul R M] (f : @MulActionHom R R _root_.id M _ N _)
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Basic.lean:78]: Probably you should use MulActionHomClass so it applies to LinearMap and AlgHom too?
For MulActionHom there's this [notation](https://github.com/leanprover-community/mathlib4/blob/3eb0ff709449ce0401b0032e17d61dd0f5d51b46/Mathlib/GroupTheory/GroupAction/Hom.lean#L101-L105).

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 20]
```diff
@@ -0,0 +1,85 @@
...
+
+variable (R n : Type*) [CommSemiring R] [Fintype n] [DecidableEq n]
+
+noncomputable section
+
+open Matrix MulOpposite
+
+/-- `AlgHom.mulLeftRight` for matrix algebra sends basis Eᵢⱼ⊗Eₖₗ to
+  the map `f : Eₛₜ ↦ Eᵢⱼ * Eₛₜ * Eₖₗ = δⱼₛδₜₖEᵢₗ`, therefore we construct the inverse
+  by sending `f` to `f(Eⱼₖ)ᵢₗ • Eᵢⱼ⊗Eₖₗ`. -/
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Matrix.lean:30]:
```suggestion
  by sending `f` to `∑ᵢⱼₖₗ f(Eⱼₖ)ᵢₗ • Eᵢⱼ⊗Eₖₗ`. -/
```
or maybe clearer as
```suggestion
  by sending `f` to `∑ᵢₗₛₜ f(Eₛₜ)ᵢₗ • Eᵢₛ⊗Eₜₗ`. -/
```

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 21]
```diff
@@ -0,0 +1,85 @@
...
+    exact this
+
+instance (M : Type*) [AddCommMonoid M] [Module R M] [Module.Free R M] [Nontrivial M]:
+    FaithfulSMul R M := FaithfulSMul.ofInjective
+      ⟨(Module.Free.repr R M).symm, map_smul _⟩ (Module.Free.repr R M).symm.injective
+
+namespace IsAzumaya
+
+/-- Matrix ring over `R` is an azumaya algebra over `R`. -/
+theorem Matrix [Nonempty n] [Nontrivial R]: IsAzumaya R (Matrix n n R) where
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Matrix.lean:77]:
```suggestion
/-- A nontrivial matrix ring over `R` is an Azumaya algebra over `R`. -/
theorem matrix [Nonempty n] [Nontrivial R] : IsAzumaya R (Matrix n n R) where
```
`Nontrivial R` is also not necessary here. Probably easiest to use the `Basis` version of the FaithfulSMul instance.

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 20 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Azumaya/Matrix.lean:30]: Better to use LaTeX for code that isn't valid lean syntax I think

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean:30]: how do I type latex code in comment, is it just by adding `$$`?

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 14 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean:60]: removed!

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 13 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean:32]: yeah I don't think it could be generalised that far

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 19 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean:77]: changed to mulactionhomclass!

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 21 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean]: removed

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 13 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Azumaya/Matrix.lean:32]: Yeah I think the usefulness of this map in the matrix case comes from the fact that e.g. e_{ij} * e_{jk} = e_{ik} for the chosen basis, which won't be true in general. Note that the definition here involves e_ij, e_{jk} and e_{kl} so I don't think we can extrapolate. In general if we have a basis f_n then we're looking for the inverse to a map sending (f_i tensor f_j) to the function sending f_k to f_i f_k f_j and in general this has no nice form.

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 20 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Azumaya/Matrix.lean:30]: For module docstrings I would be inclined to agree here, because "module docstrings are usually viewed in the docs" (in my opinion). But for theorem docstrings I'm less convinced, because "theorem docstrings are usually viewed in VS Code via hover" (in my opinion) and LaTeX does not render in this case, so most people viewing this are going to see `sum_{i,j,s,t} f(E_{s,t})_{i,l} \cdot E_{i,s}\tensor E_{t,l}` which I think looks much worse.

File: Mathlib/Algebra/Azumaya/Basic.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Basic.lean]: moved!

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 22]
```diff
@@ -0,0 +1,94 @@
...
+
+/-- `AlgHom.mulLeftRight` for matrix algebra sends basis Eᵢⱼ⊗Eₖₗ to
+  the map `f : Eₛₜ ↦ Eᵢⱼ * Eₛₜ * Eₖₗ = δⱼₛδₜₖEᵢₗ`, therefore we construct the inverse
+  by sending `f` to `f(Eⱼₖ)ᵢₗ • Eᵢⱼ⊗Eₖₗ`. -/
+abbrev AlgHom.mulLeftRightMatrix_inv :
+    Module.End R (Matrix n n R) →ₗ[R] Matrix n n R ⊗[R] (Matrix n n R)ᵐᵒᵖ where
+  toFun := fun f ↦ ∑ ⟨⟨i, j⟩, k, l⟩ : (n × n) × n × n,
+    f (stdBasisMatrix j k 1) i l • (stdBasisMatrix i j 1) ⊗ₜ[R] op (stdBasisMatrix k l 1)
+  map_add' := fun f1 f2 ↦ by simp [add_smul, Finset.sum_add_distrib]
+  map_smul' := fun r f ↦ by simp [MulAction.mul_smul, Finset.smul_sum]
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Matrix.lean:36]:
```suggestion
  toFun f := ∑ ⟨⟨i, j⟩, k, l⟩ : (n × n) × n × n,
    f (stdBasisMatrix j k 1) i l • (stdBasisMatrix i j 1) ⊗ₜ[R] op (stdBasisMatrix k l 1)
  map_add' f1 f2 := by simp [add_smul, Finset.sum_add_distrib]
  map_smul' r f := by simp [MulAction.mul_smul, Finset.smul_sum]
```

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 23]
```diff
@@ -216,6 +216,14 @@ theorem ofEq_apply {φ' : M → N} (h : φ = φ') (f : X →ₑ[φ] Y) (a : X) :
...
   rfl
 
+lemma _root_.FaithfulSMul.ofInjective
+    [FaithfulSMul M' X] [MulActionHomClass F M' X Y] (f : F)
+    (hf : Function.Injective f) :
+    FaithfulSMul M' Y where
+  eq_of_smul_eq_smul {r1 r2} h12 := by
+    have : ∀ m : _, r1 • f m = r2 • f m := fun m ↦ h12 (f m)
+    simp_rw [← map_smul] at this
+    exact eq_of_smul_eq_smul <| fun m ↦ hf (this m)
```
Comment (alreadydone) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:226]:
```suggestion
  eq_of_smul_eq_smul {_ _} h := eq_of_smul_eq_smul fun m ↦ hf <| by simp_rw [map_smul, h]
```

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 24]
```diff
@@ -0,0 +1,94 @@
...
+theorem matrix [Nonempty n] : IsAzumaya R (Matrix n n R) where
+  eq_of_smul_eq_smul := by
+    if h : Subsingleton R then exact fun _ ↦ Subsingleton.elim _ _
+    else
+    rw [@not_subsingleton_iff_nontrivial] at h
+    exact instFaithfulSMulOfFreeOfNontrivial R _ |>.1
+  bij := ⟨Function.HasLeftInverse.injective ⟨AlgHom.mulLeftRightMatrix_inv R n,
+    DFunLike.congr_fun (AlgHom.mulLeftRightMatrix.inv_comp R n)⟩,
+    Function.HasRightInverse.surjective ⟨AlgHom.mulLeftRightMatrix_inv R n,
+    DFunLike.congr_fun (AlgHom.mulLeftRightMatrix.comp_inv R n)⟩⟩
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Matrix.lean:90]:
```suggestion
  eq_of_smul_eq_smul := by nontriviality R; exact instFaithfulSMulOfFreeOfNontrivial R _ |>.1
  bij := Function.bijective_iff_has_inverse.mpr
    ⟨AlgHom.mulLeftRightMatrix_inv R n,
    DFunLike.congr_fun (AlgHom.mulLeftRightMatrix.inv_comp R n),
    DFunLike.congr_fun (AlgHom.mulLeftRightMatrix.comp_inv R n)⟩
```

File: Mathlib/Algebra/Azumaya/Matrix.lean [hunk 25]
```diff
@@ -0,0 +1,94 @@
...
+      fun h ↦ by simp only [Finset.mem_singleton]; simp only [Function.update, eq_rec_constant,
+        Pi.zero_apply, dite_eq_ite, ne_eq, ite_eq_right_iff, one_ne_zero, imp_false,
+        Decidable.not_not] at h; exact h⟩⟩
+      Classical.ofNonempty
+    simp only [Finsupp.coe_mk, Function.update_self, smul_eq_mul, mul_one] at this
+    exact this
+
+instance (M : Type*) [AddCommMonoid M] [Module R M] [Module.Free R M] [Nontrivial M]:
+    FaithfulSMul R M := FaithfulSMul.ofInjective
+      (Module.Free.repr R M).symm (Module.Free.repr R M).symm.injective
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Matrix.lean:76]:
```suggestion
instance (ι : Type*) [Nonempty ι] : FaithfulSMul R (ι →₀ R) :=
  .ofInjective (Finsupp.lsingle <| Classical.arbitrary _) (Finsupp.single_injective _)

instance (M : Type*) [AddCommMonoid M] [Module R M] [Module.Free R M] [Nontrivial M] :
    FaithfulSMul R M := .ofInjective _ (Module.Free.repr R M).symm.injective
```

**Review by alreadydone — APPROVED** [review]

File: Mathlib/Algebra/Azumaya/Matrix.lean (hunk 20 above)
Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Matrix.lean:30]: maintainer delegate
but please resolve this before merge

Comment (jcommelin) [reply Mathlib/Algebra/Azumaya/Matrix.lean:30]: bors d+

@Whysoserioushah please fix the comments before merging.

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean]: sorry I didn't see this

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Matrix.lean]: looks like junyan did it for me so I'm resolving this
